US06310056B1
To a suspension of 997 mg of 7-carbamoylimidazo[5,1-b]-thiazole in 80 ml of dichloromethane were add under ice-cooling 7.28 ml of N,N-diisopopylethylamine and 2.23 ml of phosphorus oxychloride. After the reaction mixture was stirred at the same temperature, it was poured onto ice-water, adjusted pH to 7.5 with aqueous sodium hydrogen carbonate, and extracted three times with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue thus obtained was purified by column chromatography on silica gel (dichloromethane:methanol=15:1) to give 871 mg of 7-cyanoimidazo[5,1-b]thiazole.

reactant | 7-carbamoylimidazo[5,1-b]-thiazole | 997 mg | C(N)(=O)C=1N=CN2C1SC=C2 | C6H5N3OS
reactant | phosphorus oxychloride | 2.23 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | 7-cyanoimidazo[5,1-b]thiazole | 871 mg | C(#N)C=1N=CN2C1SC=C2 | C6H3N3S
